US07863294B2
Step 1: 2-Chloro-1-(4-methoxyquinolin-2-yl)ethanone (HH1)
To a solution of 4-methoxyquinoline-2-carboxylic acid and DMF (50 μL) in DCM at 0° C. was added dropwise oxalyl chloride (1.2 eq). The cooling bath was removed and the mixture was stirred for 2 hr at RT, then the solvent was removed under reduced pressure. The residue was dissolved in THF/MeCN (1:1) and cooled to 0° C., a pre-cooled solution (0° C.) of TMSCHN2 (1.2 eq) and Et3N (1.2 eq) was added dropwise and the resulting mixture was stirred for 2 hr at 0° C. An excess of 2M HCl solution in Et2O was added and the reaction was stirred for further hour at 0° C. and then partitioned between sat. aq. NaHCO3 solution and DCM. The organic phase was separated, dried (Na2SO4), and concentrated under reduced pressure to afford a dark brown solid which was used as such in the next step. 1H NMR (300 MHz, CDCl3) δ: 8.47 (1H, d, J=8.0 Hz), 8.09 (1H, d, J=8.4 Hz), 7.81-7.73 (1H, m), 7.66-7.58 (1H, m), 7.51 (1H, s), 5.31 (2H, s), 4.13 (3H, s). MS (ES) Cl2H10ClNO2 requires: 235, found: 236 (M+H)+.

reactant | 4-methoxyquinoline-2-carboxylic acid | COC1=CC(=NC2=CC=CC=C12)C(=O)O | C11H9NO3
reactant | oxalyl chloride | 1.2 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | TMSCHN2 | 1.2 eq | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | Et3N | 1.2 eq | CCN(CC)CC | C6H15N
reactant | HCl | 2M | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
solvent | DMF | 50 μL | CN(C)C=O | C3H7NO
product | 2-Chloro-1-(4-methoxyquinolin-2-yl)ethanone | ClCC(=O)C1=NC2=CC=CC=C2C(=C1)OC | C12H10ClNO2
